US20010027196A1
To a stirred suspension of 1.00 g (4.08 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 10 ml DME were added 0.33 ml (4.08 mmol) 2-(hydroxymethyl)pyridine and 0.62 ml (4.08 mmol) DBU and stirring continued for 16 hours at room temperature. 50 ml water was then added and the resulting crystals collected by filtration. Chromatography (ethyl acetate) followed by trituration in ether afforded 180 mg (16%) 2-amino-4-methylsulfanyl-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 273 (M+, 100), 258 (89), 108 (63), 92 (95), 65 (70), 39 (36).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 4.08 mmol, 1.00 g | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 2-(hydroxymethyl)pyridine | 4.08 mmol, 0.33 ml | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | 4.08 mmol, 0.62 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 50 ml | O | H2O
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-amino-4-methylsulfanyl-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | 180 mg, 16% | NC1=NC(=C(C(=N1)SC)C#N)OCC1=NC=CC=C1 | C12H11N5OS
